US05892091
Preparation of Phenyl Benzoate
The decarbonylation reaction of phenyl phenylglyoxylate (PPG) was repeated in the manner as described in Example 79, except that neither tetraphenylphosphonium chloride nor chloroform was employed. The results are also set forth in Table 12.

reactant | phenyl phenylglyoxylate | C1(=CC=CC=C1)C(C(=O)OC1=CC=CC=C1)=O | C14H10O3
catalyst | tetraphenylphosphonium chloride | [Cl-].C1(=CC=CC=C1)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | Phenyl Benzoate | C(C1=CC=CC=C1)(=O)OC1=CC=CC=C1 | C13H10O2
